US04697012
To a mixture of 2-benzyl-4-(4-pyridyl)thiazole (3.00 g, 0.01 mol) and potassium permanganate (3.16 g, 0.02 mol) in benzene (30 mL) and water (60 mL) was added tetrahexyl ammonium iodide (0.96 g, 0.02 mol). The biphasic mixture was heated at reflux for 15 hours. After cooling the organic layer was separated and concentrated. The residue was taken up in ethyl acetate, filtered through silica gel, concentrated and chromatographed (ethyl acetate/hexane as eluant). Recrystallization from ethyl acetate/hexane afforded 1-phenyl-1-[4-(4-pyridyl)-2-thiazolyl]methanone (0.50 g, 11%). mp. 135°-136° C.

reactant | 2-benzyl-4-(4-pyridyl)thiazole | 0.01 mol, 3.00 g | C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC=NC=C1 | C15H12N2S
reactant | potassium permanganate | 0.02 mol, 3.16 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | water | 60 mL | O | H2O
catalyst | tetrahexyl ammonium iodide | 0.02 mol, 0.96 g | [I-].C(CCCCC)[N+](CCCCCC)(CCCCCC)CCCCCC
product | 1-phenyl-1-[4-(4-pyridyl)-2-thiazolyl]methanone | 0.50 g, 11% | C1(=CC=CC=C1)C(=O)C=1SC=C(N1)C1=CC=NC=C1 | C15H10N2OS
